US07786132B2
1-(2-(5-Bromo-4-(5-chlorothiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one
5-Bromo-2-chloro-4-(5-chlorothiophen-2-yl)pyrimidine (0.4g, 1.3 mmol), N-methyl pyrrolidone (3 mL), potassium carbonate (0.358 g, 2.6 mmol) and 1-(2-aminoethyl)-imidazolidin-2-one (0.2 g, 1.54 mmol) were all placed in a microwave tube. The reaction was heated to 150° C. for 20 min in a Personal Chemistry microwave. A saturated solution of sodium bicarbonate was added to the reaction mixtue, which was extracted three times with dichloromethane. The organic layer was dried with sodium sulfate and purified by flash chromatography on silica gel using gradient of 0 to 10% methanol in dichloromethane to obtain a white solid. Yield=0.41 g. MS (M+H)+ 402/404.

reactant | 5-Bromo-2-chloro-4-(5-chlorothiophen-2-yl)pyrimidine | 1.3 mmol, 0.4g | BrC=1C(=NC(=NC1)Cl)C=1SC(=CC1)Cl | C8H3BrCl2N2S
reactant | potassium carbonate | 2.6 mmol, 0.358 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-aminoethyl)-imidazolidin-2-one | 1.54 mmol, 0.2 g | NCCN1C(NCC1)=O | C5H11N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N-methyl pyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 1-(2-(5-Bromo-4-(5-chlorothiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | BrC=1C(=NC(=NC1)NCCN1C(NCC1)=O)C=1SC(=CC1)Cl | C13H13BrClN5OS
